US03979385
73.1 parts of dimethyl formamide were mixed with 41 parts by phosphorous acid and this mixture was reacted with 137.3 parts of phosphorus trichloride at about 70°C. A viscous mass was formed, which after about an hour was treated with 180 parts of water. The solution so obtained was filtered and treated with acetone. A precipitate was formed which was further treated as described in Example 1. N,N-dimethyl-1-aminomethane-1,1-diphosphonic acid was obtained in a yield of 76%, based on PCl3.

reactant | dimethyl formamide | CN(C=O)C | C3H7NO
reactant | phosphorous acid | P(O)(O)O | H3O3P
reactant | phosphorus trichloride | P(Cl)(Cl)Cl | Cl3P
solvent | water | O | H2O
product | N,N-dimethyl-1-aminomethane-1,1-diphosphonic acid | yield of 76% | CN(C(P(O)(=O)O)P(O)(=O)O)C | C3H11NO6P2
